US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid 3-methyl ester
To a solution of 2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester (300 mg) in THF (3 ml) were added methanol (3 ml) and 8N-aqueous sodium hydroxide solution (0.16 ml) at room temperature, and the mixture was stirred for 12 hrs. The reaction mixture was concentrated under reduced pressure, and 1N-hydrochloric acid was added to the residue. The aqueous layer of the mixture was acidified, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was crystallized from ethyl acetate-hexane to give the title compound (230 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)=O)CC1=CC2=C(OCO2)C=C1 | C27H21NO7
reactant | methanol | 3 ml | CO | CH4O
reactant | sodium hydroxide | 0.16 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid 3-methyl ester | 230 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O)=O)CC1=CC2=C(OCO2)C=C1 | C26H19NO7
